US05409943
(a) N-[3-(2-Fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-phenylthiourea
A mixture of 2-amino-3-(2-fluoro-6-chlorobenzyloxy)pyridine (7.6 g, 0.03 mol), phenyl isothiocyanate (3.95 ml, 0.033 mol) and toluene (25 ml) was refluxed for 2.5 hours, then cooled and treated with diethyl ether to induce crystallisation of the product. Yield 8.47 g (73%), m.p. 143°-145 ° C.

reactant | 2-amino-3-(2-fluoro-6-chlorobenzyloxy)pyridine | 0.03 mol, 7.6 g | NC1=NC=CC=C1OCC1=C(C=CC=C1Cl)F | C12H10ClFN2O
reactant | phenyl isothiocyanate | 0.033 mol, 3.95 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-(2-Fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-phenylthiourea | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=CC=C2)C(=CC=C1)Cl | C19H15ClFN3OS
